US06355653B1
b) 7-(5-Butyl-pyridin-2-yl)-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine
The title compound, MS m/e (%): 334 (M+H+, 100), was prepared in accordance with the general method of example 1 from 3-benzenesulfonylmethyl-5-furan-2-yl-1H-[1,2,4]triazole and (E)-3-(5-butyl-pyridin-2-yl)-acrylonitrile.

reactant | 3-benzenesulfonylmethyl-5-furan-2-yl-1H-[1,2,4]triazole | C1(=CC=CC=C1)S(=O)(=O)CC1=NNC(=N1)C=1OC=CC1 | C13H11N3O3S
reactant | (E)-3-(5-butyl-pyridin-2-yl)-acrylonitrile | C(CCC)C=1C=CC(=NC1)/C=C/C#N | C12H14N2
product | 7-(5-Butyl-pyridin-2-yl)-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | C(CCC)C=1C=CC(=NC1)C1=CC=2N(C(=C1)N)N=C(N2)C=2OC=CC2 | C19H19N5O
